datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)C 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C([O-:21])CCCCCC)[H])C>>CCN([C:20]1(OC(C([O:21]1)CCCCCC)[H])[O-:10])C 21=20;20,10=10"
"[O:10]([K])C(CC)/C(O)=C([C:20]([H])=[O:21])/[H]>>[O-:21][C:20]1([H])[O+:10]([K])C(CC)C(O)=C1[H] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(CC)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[OH:21][C:20]1(OCC)[OH+:10]C([H])C(O)=C1[H]>>[OH:10]C([H])/C(O)=C([C:20](OCC)=[OH+:21])/[H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C([H])[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])OCC)CCCCCC)C>>C(C(O[C:20](=[O:10])OCC)C)([O-:21])CCCCCC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CC)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)[H])CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C(C)C([H])C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C([H])C(C)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)C)C 21=20;20,10=10"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CC)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CC)CCCCCC 10=20;20,21=21"
"[OH:21][C:20]1([H])[OH+:10]C(C)C(O)=C1C>>[OH:10]C(C)/C(O)=C([C:20]([H])=[OH+:21])/C 21=20;20,10=10"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)C)[H]>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)C)[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C(CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[S]2.CC[S:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
